US07786132B2
1-(2-(5-Bromo-4-(5-(2-(4-methylpiperazin-1-yl)ethoxy)benzo[b]thiophen-2-yl)pyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione
1-(2-{5-Bromo-4-[5-(2-chloroethoxy)benzo[b]thiophen-2-yl]pyrimidin-2-ylamino}ethyl)-5,5-dimethylimidazolidine-2,4-dione (0.15 g, 0.27 mmol) was dissolved in DMF (2 mL) and treated with N-methylpiperazine (0.061 mL, 0.55 mmol) and catalytic amount of sodium iodide (0.025 g). The mixture was heated to 70° C. and stirred overnight. The reaction was cooled down to room temperature and poured into a saturated aqueous solution of sodium bicarbonate (15 mL). The resulting precipitate was collected by filtration, dissolved in DMF (2 mL) and purified by preparative HPLC. The clean fractions were treated with 2 M ammonia in methanol and the organic volatiles removed to give a suspension of a white solid in the aqueous layer, which was collected by filtration, washed well with water and dried overnight in a vacuum oven at 60° C. Yield=0.062 g. MS (M+H)+ 603/605.

reactant | 1-(2-{5-Bromo-4-[5-(2-chloroethoxy)benzo[b]thiophen-2-yl]pyrimidin-2-ylamino}ethyl)-5,5-dimethylimidazolidine-2,4-dione | 0.27 mmol, 0.15 g | BrC=1C(=NC(=NC1)NCCN1C(NC(C1(C)C)=O)=O)C1=CC2=C(S1)C=CC(=C2)OCCCl | C21H21BrClN5O3S
reactant | N-methylpiperazine | 0.55 mmol, 0.061 mL | CN1CCNCC1 | C5H12N2
reactant | sodium iodide | 0.025 g | [I-].[Na+]
reactant | sodium bicarbonate | 15 mL | C([O-])(O)=O.[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-(2-(5-Bromo-4-(5-(2-(4-methylpiperazin-1-yl)ethoxy)benzo[b]thiophen-2-yl)pyrimidin-2-ylamino)ethyl)-5,5-dimethylimidazolidine-2,4-dione | BrC=1C(=NC(=NC1)NCCN1C(NC(C1(C)C)=O)=O)C1=CC2=C(S1)C=CC(=C2)OCCN2CCN(CC2)C | C26H32BrN7O3S
